US07612114B2
6-{2-{Ethyl{3-fluoro-4-[2-(2,2,6,6-tetramethylpiperidin-1-yl)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-bromo-1-(2,2,6,6-tetramethylpiperidin-1-yl)ethanone (20 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (6.5 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C31H34FNO5
reactant | 2-bromo-1-(2,2,6,6-tetramethylpiperidin-1-yl)ethanone | 20 mg | BrCC(=O)N1C(CCCC1(C)C)(C)C | C11H20BrNO
product | 6-{2-{Ethyl{3-fluoro-4-[2-(2,2,6,6-tetramethylpiperidin-1-yl)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 6.5 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN1C(CCCC1(C)C)(C)C)F | C37H49FN2O3
